US06525028B1
To a solution of 2-deoxy-4-O-diphenylphosphono-3-O-[(R)-3-decanoyloxytetradecanoyl]-6-O-(2,2,2-trichloro-1,1-dimethylethoxycarbonyl)-2-(2,2,2-trichloroethoxycarbonylamino)-α-D-glucopyranosyl bromide (1.70 g, 1.38 mmol) in dry 1,2-dichloroethane (3.5 mL) were added 4 Å molecular sieves (0.6 g), anhydrous CaSO4 (1.2 g, 8.8 mmol), and N-[(R)-3-decanoyloxytetradecanoyl]-(S)-2-pyrrolidinemethanol (0.60 g, 1.24 mmol). The resulting mixture was stirred for 1 h at room temperature, treated with Hg(CN)2 (0.63 g, 2.5 mmol), and heated to reflux for 6 h in the dark. The cooled reaction mixture was diluted with CH2Cl2 and filtered through a bed of celite. The filtrate was washed with 1 N aq KI, dried (Na2SO4), and concentrated. Flash chromatography on silica gel (gradient elution, 25→40% EtOAc/hexanes) afforded 1.82 g (80%) of N-[(R)-3-decanoyloxytetradecanoyl]-(S)-2-pyrrolidinylmethyl 2-deoxy-4-O-diphenylphosphono-3-O-[(R)-3-decanoyloxytetradecanoyl]-6-O-(2,2,2-trichloro-1,1-dimethylethoxycarbonyl)-2-(2,2,2-trichloroethoxycarbonylamino)-β-D-glucopyranoside as a colorless oil.

reactant | 2-deoxy-4-O-diphenylphosphono-3-O-[(R)-3-decanoyloxytetradecanoyl]-6-O-(2,2,2-trichloro-1,1-dimethylethoxycarbonyl)-2-(2,2,2-trichloroethoxycarbonylamino)-α-D-glucopyranosyl bromide | 1.38 mmol, 1.70 g | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)O[C@H]1[C@@H]([C@H]([C@H](O[C@@H]1COC(=O)OC(C(Cl)(Cl)Cl)(C)C)Br)NC(=O)OCC(Cl)(Cl)Cl)OC(C[C@@H](CCCCCCCCCCC)OC(CCCCCCCCC)=O)=O | C50H71BrCl6NO14P
reactant | N-[(R)-3-decanoyloxytetradecanoyl]-(S)-2-pyrrolidinemethanol | 1.24 mmol, 0.60 g | C(CCCCCCCCC)(=O)O[C@@H](CC(=O)N1[C@@H](CCC1)CO)CCCCCCCCCCC | C29H55NO4
reactant | Hg(CN)2 | 2.5 mmol, 0.63 g | [Hg](C#N)C#N
solvent | 1,2-dichloroethane | 3.5 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[(R)-3-decanoyloxytetradecanoyl]-(S)-2-pyrrolidinylmethyl 2-deoxy-4-O-diphenylphosphono-3-O-[(R)-3-decanoyloxytetradecanoyl]-6-O-(2,2,2-trichloro-1,1-dimethylethoxycarbonyl)-2-(2,2,2-trichloroethoxycarbonylamino)-β-D-glucopyranoside | 1.82 g, 80% | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)O[C@H]1[C@@H]([C@H]([C@H](OC[C@H]2N(CCC2)C(C[C@@H](CCCCCCCCCCC)OC(CCCCCCCCC)=O)=O)O[C@@H]1COC(=O)OC(C(Cl)(Cl)Cl)(C)C)NC(=O)OCC(Cl)(Cl)Cl)OC(C[C@@H](CCCCCCCCCCC)OC(CCCCCCCCC)=O)=O | C79H125Cl6N2O18P
